US08383616B2
Step i: 5-[2,4-bis(benzyloxy)-5-chlorophenyl]-isoxazole-3-carboxylic acid
A mixture of ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate (200 mg, 0.43 mmol), methanol (10 ml), water (6-7 ml), and LiOH (16 mg, 0.65 mmol) was allowed to stand at 50-60° C. for 24 h. The solution was concentrated under vacuo to remove methanol, and the remaining aqueous solution was extracted with Et2O to remove traces of unreacted starting material. The aqueous solution was acidified with 1 M HCl and extracted with three portions of AcOEt. The combined organic extracts were washed with saturated aqueous sodium chloride and dried over sodium sulfate. Removal of the solvent under reduced pressure afforded a residue, which was chromatographed on silica gel (DCM/methanol: 9/1).

reactant | ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate | 0.43 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=CC(=NO1)C(=O)OCC | C26H22ClNO5
reactant | methanol | 10 ml | CO | CH4O
reactant | LiOH | 0.65 mmol, 16 mg | [Li+].[OH-]
solvent | water | 6-7 ml | O | H2O
product | 5-[2,4-bis(benzyloxy)-5-chlorophenyl]-isoxazole-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=CC(=NO1)C(=O)O | C24H18ClNO5
